2139-07-26 08:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   23:40:   Pt having prolonged pauses tele ranging from 2.83-3.11
   seconds.  Asymptomatic.  Increased dopamine to 15mcg/min.  BP elevated
   (SBP in 170s).  Gave 50mg PO hydralazine (home dose) before increasing
   dopamine drip.  BP and HR monitored closely.  Patient stable.
   Allergies:
   Penicillins
   Unknown;
   Zestril (Oral) (Lisinopril)
   Cough;
   Diovan (Oral) (Valsartan)
   Cough;
   Hydrochlorothiazide
   Na 103
   K 1.9;
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-7-25**] 08:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-26**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 64 (48 - 72) bpm
   BP: 169/57(86) {131/34(60) - 171/73(98)} mmHg
   RR: 17 (16 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    983 mL
                                                                    465 mL
   PO:
                                                                    200 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    783 mL
                                                                    365 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    750 mL
   Urine:
                                                                  1,860 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -877 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GENERAL: In NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 2 cm above clavicle.
   CARDIAC: Bradycardic.  Regular rhythm.  3/6 systolic murmur heard best
   at right sternal border.  PMI located in 5th intercostal space,
   midclavicular line. Normal S1, S2. No thrills, lifts. No S3 or S4.
   LUNGS: Bilateral inspiratory crackles to apex.  No chest wall
   deformities, scoliosis or kyphosis. Resp were unlabored, no accessory
   muscle use. No wheezes.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   134 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   102 mEq/L
   139 mEq/L
        [image002.jpg]
                             [**2139-7-25**]  11:28 PM
   Cr
   1.0
   Glucose
   134
   Other labs: Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 # CORONARIES:  Cath in [**2130**] shows 2VD.  Not currently having any
   chest pain, shortness of breath.
   - Aspirin 81mg
   .
   # PUMP:  History of HTN.  EF normal.  Has pulmonary hypertension caused
   by LV diastolic dysfunction
   -Re-start her antihypertensives (felodipine and hydralazine).  Will
   hold her [**Last Name (un) **] until creatinine from this AM comes back.
   .
   # RHYTHM:  History of paroxysmal a-fib/flutter/tachy.  Admitted with
   symptomatic (light-headed) junctional rhythm.  Hemodynamically stable
   with rising creatinine. Started on dopamine 10mcg in ED.  Converted to
   sinus rhythm.  Attempted to stop dopamine but she went back into
   junctional rhythm.  Seen by cardiology fellow.
   - telemetry
   - will d/c dopamine today to evaluate if this is sinus disease or due
   to dofetilide toxicity.
   - if sinus disease, will plan on pacemaker tomorrow.
   - consider temporary line if patient fails medical treatment and stays
   in junctional rhythm
   - hold coumadin for PPM on monday
   .
   #  Acute renal failure- Probably lab error.  Repeat labs last night
   show Cr of 1.0 (was 2.2 on labs yesterday afternoon).  Good UOP
   yesterday.
   - repeat Cr this AM was also 1.0.  No ARF
   - monitor fluid status
   .
   #  Nausea/Vomiting- Patient experienced nausea/vomting in ED.
   - will not give zofran/compazine/phenergan due to QT-prolongation
   .
   #  Hyponatremia- Could also be lab error given value of 139 last night
   (130 yesterday afternoon).
   - continue to monitor
   - re-check today
   - diurese as needed
   .
   FEN:
   - Keep mag >2.0
   - replete lytes as needed
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin 5000U TID (when INR is <2.0)
   -Pain management with
   -Bowel regimen with senna
   .
   CODE: Full code- discussed with daughter [**Name (NI) 1502**].
   .
   COMM: [**Name (NI) 1502**] (daughter)- [**Telephone/Fax (1) 8194**]
         [**Name (NI) **] (son)- [**Telephone/Fax (1) 8195**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-7-25**] 04:00 PM
   18 Gauge - [**2139-7-25**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Attending
s Note
   Agree with need for CCU monitoring
   Reviewed data and agree with Rx plan
   Sinus has recovered this am off dopamine
   Probable Pacer in am
   Spent 45 mins on case
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2139-7-26**] 10:21 ------

2139-07-27 01:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt remained lowish BP but SBP climbed over course of morning and by
   Noon she was back to 140 systolic and OOB to chair no symptoms. BP now
   170 systolic and home hydralazine and felodipine restarted with good
   effect.  No junctional rhythms.
   Allergies:
   Penicillins
   Unknown;
   Zestril (Oral) (Lisinopril)
   Cough;
   Diovan (Oral) (Valsartan)
   Cough;
   Hydrochlorothiazide
   Na 103
   K 1.9;
   Univasc (Oral) (Moexipril Hcl)
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-27**] 12:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 67 (59 - 77) bpm
   BP: 131/52(72) {64/41(54) - 194/73(100)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.7 kg (admission): 59.1 kg
   Height: 62 Inch
             Total In:
                                                                    957 mL
                                                                      7 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    457 mL
                                                                      7 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                      0 mL
   Urine:
                                                                  1,870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -913 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   Physical Examination
   GENERAL: In NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 2 cm above clavicle.
   CARDIAC: Bradycardic.  Regular rhythm.  3/6 systolic murmur heard best
   at right sternal border.  PMI located in 5th intercostal space,
   midclavicular line. Normal S1, S2. No thrills, lifts. No S3 or S4.
   LUNGS: Bilateral inspiratory crackles to apex.  No chest wall
   deformities, scoliosis or kyphosis. Resp were unlabored, no accessory
   muscle use. No wheezes.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   142 K/uL
   10.9 g/dL
   163 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   15 mg/dL
   102 mEq/L
   136 mEq/L
   32.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2139-7-25**]  11:28 PM
                             [**2139-7-26**]  08:55 AM
   WBC
   6.9
   Hct
   32.1
   Plt
   142
   Cr
   1.0
   1.0
   Glucose
   134
   163
   Other labs: PT / PTT / INR:19.4/82.4/1.8, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 BRADYCARDIA
   78 yo female with a-fib, hypertension, presenting with light-headedness
   and symptomatic junctional rhythm.
 # CORONARIES:  Cath in [**2130**] shows 2VD.  Not currently having any
   chest pain, shortness of breath.
   - Aspirin 81mg
   .
   # PUMP:  History of HTN.  EF normal.  Has pulmonary hypertension caused
   by LV diastolic dysfunction
   -Re-started her antihypertensives (felodipine, hydralazine and [**Last Name (un) **]).
   .
   # RHYTHM:  History of paroxysmal a-fib/flutter/tachy.  Admitted with
   symptomatic (light-headed) junctional rhythm.  Hemodynamically stable
   with rising creatinine. Started on dopamine 10mcg in ED.  Converted to
   sinus rhythm.  Attempted to stop dopamine but she went back into
   junctional rhythm.  Seen by cardiology fellow.
   - telemetry
   - doing well without dopamine; no junctional rhythms overnight
   - if sinus disease, will plan on pacemaker tomorrow.
   - consider temporary line if patient fails medical treatment and stays
   in junctional rhythm
   - hold coumadin for PPM on Monday
   - will restart dofetilide and coumadin after pacemaker is placed today.
   .
   #  Acute renal failure- Probably lab error.  Repeat labs last night
   show Cr of 1.0 (was 2.2 on labs yesterday afternoon).  Good UOP
   yesterday.
   - repeat Cr this AM was also 1.0.  No ARF
   - monitor fluid status
   .
   #  Nausea/Vomiting- Patient experienced nausea/vomting in ED.
   - will not give zofran/compazine/phenergan due to QT-prolongation
   .
   #  Hyponatremia- Could also be lab error given value of 139 last night
   (130 yesterday afternoon).
   - continue to monitor
   - re-check today
   - diurese as needed
   .
   FEN:
   - Keep mag >2.0
   - replete lytes as needed
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin 5000U TID (when INR is <2.0)
   -Pain management with
   -Bowel regimen with senna
   .
   CODE: Full code- discussed with daughter [**Name (NI) 1502**].
   .
   COMM: [**Name (NI) 1502**] (daughter)- [**Telephone/Fax (1) 8194**]
         [**Name (NI) **] (son)- [**Telephone/Fax (1) 8195**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2139-7-25**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Attendings note.
   Agree with dr.[**Last Name (STitle) 8244**]
s Note.Examined Pt and reviewed data.
   Agree with need for prophylactic Pacer and resuming dofetilide post
   pacer.
   Spent 40 mins on case.
   Cjharles [**Doctor Last Name 4425**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2139-7-28**] 10:19 ------